US07189850B2
This compound was prepared from 1-benzyl-4-piperidone and propylamine in analogy of the procedure described for the synthesis of 1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one. 1-Propyl-1,3,8-triaza-spiro[4.5]decan-4-one was obtained as colorless powder: MS (ISP): 198.1 MH+.

reactant | 1-benzyl-4-piperidone | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | propylamine | C(CC)N | C3H9N
reactant | 1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one | FC1=CC=C(C=C1)N1CNC(C12CCNCC2)=O | C13H16FN3O
product | 1-Propyl-1,3,8-triaza-spiro[4.5]decan-4-one | C(CC)N1CNC(C12CCNCC2)=O | C10H19N3O
